US08247401B2
Step E: (1R)-1-(5-Fluoropyridin-2-yl)ethanamine
To a solution of N-[(1R)-1-(5-fluoropyridin-2-yl)ethyl]-2-methylpropane-2-sulfinamide (34.3 g, 140 mmol) in methyl alcohol (700 mL) at 0° C. was added hydrogen chloride (4.0 M in dioxane; 105 mL, 421 mmol). After 30 min, the mixture was concentrated to dryness. The residue was recrytalized using ethyl alcohol (15 mL) and ether (40 mL). The white solid was filtered and dried under reduced pressure to give the hydrochloride salt of the title compound. MS 141.1 (M+1).

reactant | N-[(1R)-1-(5-fluoropyridin-2-yl)ethyl]-2-methylpropane-2-sulfinamide | 140 mmol, 34.3 g | FC=1C=CC(=NC1)[C@@H](C)NS(=O)C(C)(C)C | C11H17FN2OS
reactant | hydrogen chloride | 421 mmol, 4.0 M, 105 mL | Cl | ClH
solvent | methyl alcohol | 700 mL | CO | CH4O
product | (1R)-1-(5-Fluoropyridin-2-yl)ethanamine | FC=1C=CC(=NC1)[C@@H](C)N | C7H9FN2
